US05795983
A solution of 24 g of bentazone (IIa) in 216 g of 1,2-dichloroethane was treated with 22.5 g of a 20% strength aqueous solution of dimethylamine with stirring at 30°-50° C. After addition was complete, the aqueous phase was separated off at 50°-60° C. and evaporated to dryness under reduced pressure and at 50°-60° C. 28 g of bentazone-dimethylammonium (m.p. 145°-147° C.; purity >99% according to HPLC analysis for bentazone and titration for dimethylammonium) were obtained.

reactant | bentazone | 24 g | CC(C)N1C(=O)C2=CC=CC=C2NS1(=O)=O | C10H12N2O3S
reactant | dimethylamine | CNC | C2H7N
solvent | 1,2-dichloroethane | 216 g | ClCCCl | C2H4Cl2
product | bentazone dimethylammonium | 28 g | CC(C)N1C(=O)C2=CC=CC=C2NS1(=O)=O.C[NH2+]C | InChI=1S/C10H12N2O3S.C2H7N/c1-7(2)12-10(13)8-5-3-4-6-9(8)11-16(12,14)15;1-3-2/h3-7,11H,1-2H3;3H,1-2H3/p+1
